US07902369B2
1) Manufacture of 6-bromo-2-ethylisoquinoline-1-one
Under nitrogen atmosphere, 22 mg of 60% sodium hydride was added at 0° C. to 3 ml solution of dimethylformamide with 100 mg of 6-bromo-2H-isoquinoline-1-one, and the mixture was stirred for 30 min. 0.04 ml of ethyl iodide was added at 0° C., and the mixture was stirred at room temperature for 3 hours. Cold water was added to the reaction solution, extracted with chloroform. Chloroform layer was washed with saturated saline solution, and dried with anhydrous sodium sulfate. After distilling out the solvents under reduced pressure, the residues were separated and purified by thin-layer chromatography (hexane/ethyl acetate=3/1) to obtain 30 mg of the above compound as a white solid.

reactant | sodium hydride | 22 mg | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 6-bromo-2H-isoquinoline-1-one | 100 mg | BrC=1C=C2C=CNC(C2=CC1)=O | C9H6BrNO
reactant | ethyl iodide | 0.04 ml | C(C)I | C2H5I
solvent | water | O | H2O
product | 6-bromo-2-ethylisoquinoline-1-one | 30 mg | BrC=1C=C2C=CN(C(C2=CC1)=O)CC | C11H10BrNO
